US04567172
17α-Acetoxy-11β-hydroxy-6α-methyl-21-propionyloxy-1,4-pregnadiene-3,20-dione
In 4 ml of methylene chloride was dissolved 178 mg of 17α-acetoxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione obtained according to the method described in Example 6. To this solution was added 395 mg of propionic anhydride and 480 mg of pyridine, and the mixture was stirred for 19 hours at room temperature. The reaction liquid was treated as described in Example 6 whereupon 170 mg (yield: 85.0%) of the title compound was obtained as colorless needle crystals. Shown below are physical properties and various analytical data of this compound.

reactant | 17α-acetoxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 178 mg | C(C)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C24H32O6
reactant | propionic anhydride | 395 mg | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | pyridine | 480 mg | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 17α-Acetoxy-11β-hydroxy-6α-methyl-21-propionyloxy-1,4-pregnadiene-3,20-dione | C(C)(=O)O[C@]1(C(COC(CC)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C27H36O7
